US04749791
7.60 g of 4-acetyl-9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione were dissolved in 240 ml of methanol and treated with a mixture of 36 ml of methanol and 4 ml of saturated potassium carbonate solution. The mixture was stirred at room temperature for 1 hour and thereafter the solvent was removed in vacuo. The residue was triturated in ethyl acetate. The crystallized-out 9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione was filtered off and exhibited a melting point of 211°-214°. The filtrate was chromatographed on 100 g of silica gel (particle size 0.2-0.5 mm). A further portion of 9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione can be isolated from the ethyl acetate eluate.

reactant | 4-acetyl-9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | 7.60 g | C(C)(=O)N1C(CCC2=C(C(CCC1)=O)C(=CC=C2)Cl)=O | C15H16ClNO3
reactant | potassium carbonate | 4 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 240 ml | CO | CH4O
solvent | methanol | 36 ml | CO | CH4O
product | 9-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | ClC1=CC=CC2=C1C(CCCNC(CC2)=O)=O | C13H14ClNO2
